US07030123B2
A solution of 4-hydroxybenzenethiol (46 g; 328 mmol) in DMA (500 ml) under argon was cooled to 0° C. and treated portionwise with NaH (28.9 g; 722 mmol; 60 % dispersion in oil). The mixture was stirred at room temperature for 2 hours and then solid 4-chloro-2-amino-nitrobenzene (56.6 g; 328 mmol) was added rapidly portionwise. The mixture was stirred and heated at 80° C. for 30 minutes and allowed to cool overnight. The mixture was poured into aqueous HCl (2 N) and the precipitate was filtered, washed with water, then pentane and dried in vacuo to give 4-(4-hydroxyphenylsulphanyl)-2-amino-nitrobenzene as a beige solid (86.6 g).

reactant | 4-hydroxybenzenethiol | 328 mmol, 46 g | OC1=CC=C(C=C1)S | C6H6OS
reactant | NaH | 722 mmol, 28.9 g | [H-].[Na+]
reactant | 4-chloro-2-amino-nitrobenzene | 328 mmol, 56.6 g | ClC1=CC(=C(C=C1)[N+](=O)[O-])N | C6H5ClN2O2
reactant | HCl | 2 N | Cl | ClH
solvent | DMA | 500 ml | CC(=O)N(C)C | C4H9NO
product | 4-(4-hydroxyphenylsulphanyl)-2-amino-nitrobenzene | 86.6 g | OC1=CC=C(C=C1)SC1=CC(=C(C=C1)[N+](=O)[O-])N | C12H10N2O3S
